US06599929B2
Preparation of 1-Benzyl-5-nitro-2,3-dihydro-1H-indole
Under the presence of nitrogen, 5-nitroindolin (50 mg, 0.30 mmol) was dissolved in dimethylformamide (2 ml) at room temperature and benzyl bromide (0.04 ml. 0.34 mmol) and potassium carbonate (0.126 ml, 3.0 equivalent) were added and stirred at room temperature for 48 hours. After completing the reaction, water and ethyl acetate (respectively 5 ml) were added to separate layers, washed with brine, dried over anhydrous magnesium sulfate, and concentrated. Finally, the residue was purified through flash column chromatography (an eluent:ethyl acetate/n-hexane=1/4, v/v). As a result, the present compound (45 mg, productive yield 58%) was obtained.

reactant | 5-nitroindolin | 0.30 mmol, 50 mg | [N+](=O)([O-])C=1C=C2CCNC2=CC1 | C8H8N2O2
reactant | benzyl bromide | 0.34 mmol, 0.04 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.126 ml, 3.0 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-5-nitro-2,3-dihydro-1H-indole | yield 58% | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)[N+](=O)[O-] | C15H14N2O2
